US04232144
Preparation of 3-Methyl-4-Acetoxy-3'-Carboxybenzophenone
The 3-chloro-4-acetoxy-3'-carboxybenzophenone may be obtained by similar reactions using o-chlorophenol in place of o-cresol.

reactant | 3-chloro-4-acetoxy-3'-carboxybenzophenone | ClC=1C=C(C(=O)C2=CC(=CC=C2)C(=O)O)C=CC1OC(C)=O | C16H11ClO5
reactant | o-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
product | 3-Methyl-4-Acetoxy-3'-Carboxybenzophenone | CC=1C=C(C(=O)C2=CC(=CC=C2)C(=O)O)C=CC1OC(C)=O | C17H14O5
